US04113940
Acetic acid (4 ml) and zinc powder (3 g) were added under stirring and ice-cooling to a solution of 2,2,2-trichloroethyl 2-methyl-7-(2-cyanoacetamido)-3-cephem-4-carboxylate (3.2 g) in anhydrous dimethylformamide (15 ml), and the mixture was stirred for 1 hour at the same temperature. After the reaction, ethyl acetate (100 ml) was added to the reaction mixture. The insoluble material was filtered off, and the filtrate was washed with 5% hydrochloric acid saturated with sodium chloride, and then extracted with a saturated sodium bicarbonate aqueous solution. The extract was acidified with 10% hydrochloric acid and extracted with ethyl acetate. The extract was washed with a saturated sodium chloride aqueous solution and dried over magnesium sulfate. After the solvent was distilled off, the crystalline residue was recrystallized from a mixture of ethyl acetate and benzene to give 2-methyl-7-(2-cyanoacetamido)-3-cephem-4-carboxylic acid (2.3 g), mp 162° to 166° C.

reactant | Acetic acid | 4 ml | C(C)(=O)O | C2H4O2
reactant | 2,2,2-trichloroethyl 2-methyl-7-(2-cyanoacetamido)-3-cephem-4-carboxylate | 3.2 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC#N)=O)=O | C13H12Cl3N3O4S
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 3 g | [Zn] | Zn
product | 2-methyl-7-(2-cyanoacetamido)-3-cephem-4-carboxylic acid | 2.3 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(CC#N)=O)=O | C11H11N3O4S
